US09334278B2
A mixture of 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (200 mg, 468 μmol), 1-methyl-1H-pyrazol-3-amine (68.2 mg, 702 μmol), BINAP (14.6 mg, 23.4 μmol), palladium (II) acetate (26.3 mg, 117 μmol) and sodium tert-butoxide (112 mg, 1.17 mmol) was added DMF (1.01 mL) and toluene (503 μL) was heated in a microwave at 140° C. for 20 min. The reaction mixture was cooled then diluted with water and extracted into ethyl acetate. The organic layers were combined and washed with brine and then dried over magnesium sulfate. Purification by chromatography (silica, 20-100% ethyl acetate in hexanes) gave N-tert-butyl-2-(1-methyl-1H-pyrazol-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (140 mg, 316 μmol, 67%) as a yellow solid. MS (EI/CI) m/z: 444.3.

reactant | 2-bromo-N-tert-butyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 468 μmol, 200 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)(C)C)COCC[Si](C)(C)C | C17H27BrN4O2Si
reactant | 1-methyl-1H-pyrazol-3-amine | 702 μmol, 68.2 mg | CN1N=C(C=C1)N | C4H7N3
reactant | sodium tert-butoxide | 1.17 mmol, 112 mg | CC(C)([O-])C.[Na+]
reactant | DMF | 1.01 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | palladium (II) acetate | 117 μmol, 26.3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 23.4 μmol, 14.6 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 503 μL | C1(=CC=CC=C1)C | C7H8
product | N-tert-butyl-2-(1-methyl-1H-pyrazol-3-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 316 μmol, 140 mg, 67% | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NN(C=C2)C)COCC[Si](C)(C)C | C21H33N7O2Si
